US05043094
0.21 g of 55 % sodium hydride was mixed with 5 ml of DMF and a solution of 0.43 g of p-cresol in 2 ml of DMF was added dropwise thereto under ice-cooling. After the completion of the addition, the resulting mixture was stirred at room temperature for one hour. Then a solution of 0.91 g of optically active (R,R)-2,4-pentanediol ditosylate in 2 ml of DMF was added dropwise thereto and the obtained mixture was stirred at 90° C. for three hours. After cooling, the reaction mixture was poured into 100 ml of ice/water, extracted with ethyl ether, dried and freed of the solvent. The residue was then purified by silica gel column chromatography with the use of a mixture of n-hexane with ethyl acetate (97/3) as a developing solvent. Thus 0.28 g of optically active (S,S)-2,4-bis(4'-methylphenoxy)pentane was obtained.

reactant | sodium hydride | 0.21 g | [H-].[Na+]
reactant | p-cresol | 0.43 g | C1=CC(=CC=C1O)C | C7H8O
reactant | (R,R)-2,4-pentanediol ditosylate | S(=O)(=O)(C1=CC=C(C)C=C1)O[C@H](C)C[C@@H](C)OS(=O)(=O)C1=CC=C(C)C=C1 | C19H24O6S2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (S,S)-2,4-bis(4'-methylphenoxy)pentane | CC1=CC=C(O[C@@H](C)C[C@H](C)OC2=CC=C(C=C2)C)C=C1 | C19H24O2
